US07439232B2
To a mixture of 4-bromophenylethyl alcohol (12 g, 59.7 mmol), ethyldiisopropylamine (11.5 g, 89.5 mmol) and chloroform (200 mL), chloromethyl methyl ether (7.2 g, 89.5 mmol) was slowly added at 0° C. The reaction mixture was stirred at 0° C. for 1 hour and at room temperature for 2.5 hours, and then poured into water. After the mixture was extracted twice with chloroform, the combined organic layers were washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give bromo-4-(2-methoxymethoxyethyl)benzene (15.1 g).

reactant | 4-bromophenylethyl alcohol | 59.7 mmol, 12 g | BrC1=CC=C(C=C1)CCO | C8H9BrO
reactant | ethyldiisopropylamine | 89.5 mmol, 11.5 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | chloroform | 200 mL | C(Cl)(Cl)Cl | CHCl3
reactant | chloromethyl methyl ether | 89.5 mmol, 7.2 g | COCCl | C2H5ClO
solvent | water | O | H2O
product | bromo-4-(2-methoxymethoxyethyl)benzene | 15.1 g | BrC1=CC=C(C=C1)CCOCOC | C10H13BrO2
